US06605629B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methylphenoxy)propyl]oxazole (1.00 g), imidazole (680 mg), potassium carbonate (1.38 g) and N,N-dimethylformamide (5 ml) was stirred at 120-130° C. for 1 hour. The reaction mixture was poured into water (100 ml), and the solid precipitate was filtered, air-dried and recrystallized from acetone-isopropyl ether to give 4(4-chlorophenyl)-2-(1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]oxazole as pale yellow prisms (662 mg, 61%). Melting point 113-114° C.

reactant | 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methylphenoxy)propyl]oxazole | 1.00 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCOC1=C(C=CC=C1)C | C19H17Cl2NO2
reactant | imidazole | 680 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 4(4-chlorophenyl)-2-(1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]oxazole | 662 mg, 61% | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)C)N1C=NC=C1 | C22H20ClN3O2
